US07244843B2
Step B. Preparation of N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-7-hydroxy-pyrazino[2,1-a]isoindol-6(2H)-one
To a solution of N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-7-methoxy-pyrazino[2,1-a]isoindol-6(2H)-one (100 mg, 0.31 mmol) in dichloromethane (3 mL) at −78° C. was added dropwise boron tribromide (0.79 mL, 0.79 mmol; 1.0M in CH2Cl2). After 5 min, the reaction was warmed to 0° C. and an additional 0.2 mL of boron tribromide (1.0 M in CH2Cl2) was added. After 2 h, the yellow mixture was recooled to −78° C. and quenched with water. The reaction was warmed to room temperature and stirred for 14 h. The mixture was then concentrated, quenched again with aqueous hydrogen chloride (3M), and the resulting yellow solution was concentrated to dryness. The residue was diluted with tetrahydrofuran (10 mL) and saturated aqueous sodium bicarbonate (1 mL). Di-tert-butyl dicarbonate (69 mg, 0.31 mmol) was added, and the mixture was stirred for 1 h. The reaction was then diluted with ethyl acetate and the layers were separated. The organic layer was then dried over sodium sulfate, fitered, and concentrated. The resulting residue was purified by radial chromatography (20% ethyl acetate in hexanes) to give the desired product as an off-white solid (86 mg, 90%). MS (ESI) 305.3 (M+H).

reactant | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-7-methoxy-pyrazino[2,1-a]isoindol-6(2H)-one | 0.31 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CC2N(C(C3=C(C=CC=C23)OC)=O)CC1 | C17H22N2O4
reactant | boron tribromide | 0.79 mmol, 1.0M, 0.79 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 1.0 M, 0.2 mL | B(Br)(Br)Br | BBr3
reactant | Di-tert-butyl dicarbonate | 0.31 mmol, 69 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-7-hydroxy-pyrazino[2,1-a]isoindol-6(2H)-one | 86 mg, 90% | C(C)(C)(C)OC(=O)N1CC2N(C(C3=C(C=CC=C23)O)=O)CC1 | C16H20N2O4
